Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Retroperitoneal Hemorrhage after adrenal biopsy  
 
Major Surgical or Invasive Procedure:
Adrenal Biopsy ___

 
History of Present Illness:
Mr. ___ is a ___ year old man with metastatic prostate 
cancer (right iliac and ?adrenal mets), and bicuspid aortic 
valve s/p bioprosthetic valve replacement, who is currently 
undergoing testing for eligibility of VEGF-inhibitor. Part of 
this workup requires adrenal biopsy. Of note, he was 
hypertensive to 190/80 prior to the procedure. The patient 
underwent L adrenal biopsy on ___ at 11am after which he had 
some mild bleeding, but initial CT abdomen was stable. 
Post-procedure systolic blood pressures in the 150s and heart 
rates in ___. In the PACU, he developed increased pain, and 
repeat CT scan showed active retroperitoneal bleeding. He was 
then brought to the ___ suite for embolization of left middle 
adrenal artery. Follow up CT showed no further extravasation.  
 - Vitals on transfer: BP:103/54, HR:52, POx:100% RA  
 Upon arrival to the floor, the patient corroborates with the 
above history. He reports severe dull left sided back pain. No 
radiation, not positional, not worse with breathing. He feels 
drowsy, but no longer feels nauseous, as he did after his 
procedure. He denies light-headedness, palpitations, chest pain, 
abdominal pain.  
 
 
Past Medical History:
Metastatic Prostate Cancer: initially diagnosed ___  
 Bicuspid aortic valve c/b stenosis, s/p bioprosthetic valve  
 Hypertension  
 Hyperlipidemia 
 
Social History:
___
Family History:
Mother: died ovarian cancer at age ___  
 Father: prostate age ___  
 Sister: breast cancer age ___  
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: T:97.4 BP:113/69 P:62 RR:18 Pox:99% on RA  
 GENERAL: Alert and interactive. Uncomfortable, but in no acute 
distress.  
 HEENT: Normocephalic, atraumatic. Pupils 2mm but round 
reactive, and reactive bilaterally, extraocular muscles intact. 
Sclera anicteric and without injection. Moist mucous membranes, 
good dentition. Oropharynx is clear.  
 NECK: Supple. No JVD.  
 CARDIAC: Regular rhythm, normal rate. Loud systolic murmur best 
on right upper sternal border.  
 CHEST: Central well-healed sternotomy scar  
 LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
No increased work of breathing.  
 BACK: Left mid-back tenderness.  
 ABDOMEN: Normal bowel sounds, soft, non-distended, non-tender 
to deep palpation in all four quadrants. No organomegaly. No 
___ tenderness  
 EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally. Left femoral artery access site with dressing 
with scant blood, otherwise c/d/I without bruit.  
 SKIN: Tattoo on right upper arm. No echymosese on flank or 
umbilicus. Warm. Cap refill <2s. No rash.  
 NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal 
sensation. Gait is normal. AOx3.  

DISCHARGE EXAM
==============
VITALS: reviewed in ___  
GENERAL: Alert and interactive. Uncomfortable, but in no acute
distress.
HEENT: Normocephalic, atraumatic. Pupils 2mm but round reactive,
and reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear.  
NECK: Supple. No JVD.  
CARDIAC: Regular rhythm, normal rate. Loud systolic murmur best
on right upper sternal border. 
CHEST: Central well-healed sternotomy scar
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: Left mid-back tenderness.  
ABDOMEN: Normal bowel sounds, soft, non-distended, non-tender to
deep palpation in all four quadrants. No organomegaly. No
___ tenderness 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. RIGHT femoral artery access site with dressing with
scant blood, otherwise c/d/I without bruit.  
SKIN: Tattoo on right upper arm. No ecchymoses on flank or
umbilicus. Warm. Cap refill <2s. No rash.
NEUROLOGIC: no focal deficits
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:07PM BLOOD WBC-5.9 RBC-3.40* Hgb-11.3* Hct-33.6* 
MCV-99* MCH-33.2* MCHC-33.6 RDW-12.8 RDWSD-46.5* Plt ___
___ 03:33PM BLOOD Type-ART pO2-277* pCO2-50* pH-7.33* 
calTCO2-28 Base XS-0
___ 03:33PM BLOOD Glucose-192* Lactate-0.8 Na-137 K-4.9 
Cl-106
___ 03:33PM BLOOD Hgb-11.0* calcHCT-33
___ 03:33PM BLOOD freeCa-1.08*

MICRO/OTHER PERTINENT LABS
========================
none

IMAGING
=======
CT GUIDED BIOPSY ___
1. Limited preprocedure CT shows a left adrenal lesion measuring 
approximately
2.1 x 1.8 cm which was targeted for CT-guided core needle 
biopsy.
2. CT fluoroscopic images obtained during the procedure showed a
moderately-sized retroperitoneal hematoma adjacent to the left 
adrenal gland.
IMPRESSION:
1. CT-guided core needle biopsy of a left adrenal lesion.
2. Moderately sized post-biopsy hematoma adjacent to the left 
adrenal gland.

CTA A/P ___
1. Very large left retroperitoneal hemorrhage with active 
extravasation from
the left adrenal artery.
2. Unchanged osseous metastases.

ABDOMINAL AORTA ___
Successful coil and glue embolization of a mid and superior 
branch of the left
middle adrenal artery with resolution of contrast extravasation.

DISCHARGE LABS
==============
___ 12:50PM BLOOD WBC-13.8* RBC-2.96* Hgb-9.9* Hct-29.3* 
MCV-99* MCH-33.4* MCHC-33.8 RDW-13.2 RDWSD-46.8* Plt ___
___ 07:00AM BLOOD Glucose-124* UreaN-15 Creat-0.7 Na-143 
K-4.2 Cl-101 HCO3-26 AnGap-16
___ 07:00AM BLOOD Calcium-8.8 Phos-4.5 Mg-1.___ year-old man who underwent adrenal biopsy for eligibility for 
metastatic prostate cancer clinical trial, and developed 
hematoma, now s/p embolization of the left middle adrenal artery 
with ___. 

*****Patient leaving against medical advice as the team would 
have wanted him to stay another day to monitor his blood counts 
in the setting of a large retroperitoneal bleed*****

ACUTE ISSUES:
==================
# Adrenal Hemorrhage following biopsy: Patient presented for 
planned adrenal biopsy for eligibility for treatment of his 
prostate cancer. His course was complicated by adrenal 
hemorrhage and retroperitoneal bleed s/p coil embolization of 
left middle adrenal artery with no active extravasation on 
follow up CT. Accessed via right common femoral artery. Low 
clinical suspicion for adrenal ischemia/insufficiency given 
absence of symptoms, normotensive, and normal labs. Negative 
___ or ___ sign. Imaging concerning for 
compressive effect on left kidney although stable Cr. Hgb trend 
10.9->9.9, but remained hemodynamically stable and asymptomatic. 
Right groin site without hematoma or bruit, and biopsy site 
nontender. Controlled pain with Tylenol, oxycodone. We 
reommended the patient stay overnight at minimum for ongoing 
surveillance for active bleeding in the setting of downtrending 
Hgb, but patient refused to stay. Discharged AMA with 
instructions of what symptoms to look for, and for CBC check in 
2 days. 

#Alcohol use: patient's daughter expressed concern to nursing 
regarding withdrawal as he typically drinks ___ liquor drinks 
per night. Last drink one day prior to presentation. Remained on 
CIWA protocol, did not score. 

CHRONIC ISSUES:
===================
# Metastatic Prostate Cancer: Followed by ___ at 
___. Currently undergoing work up for clinical trial 
eligibility including the need for the adrenal biopsy. Continued 
folic acid 1 mg tablet

# Hypertension: held metoprolol tartrate 12.5 PO BID in the 
setting of bleed/hypotension

# Hyperlipidemia: continued atorvastatin 40 mg

# Unspecified Mood disorder: continued paroxetine 20 mg tablet

# Bicuspid Aortic Valve: Held aspirin 81 mg in the setting of a 
bleed

TRANSITIONAL ISSUES
====================
***PATIENT LEFT AGAINST MEDICAL ADVICE PRIOR TO ENSURING 
STABILIZATION OF HIS HGB. HE HAD CAPACITY TO MAKE HIS OWN 
MEDICAL DECISIONS AND WAS ABLE TO STATE THE RISKS WE EXPLAINED 
CLEARLY***

NEW MEDICATIONS: none

HELD MEDICATIONS: 
metoprolol 12.5mg BID
aspirin 81mg daily

[] f/u CBC check ___ 
[] f/u PCP to monitor for symptoms of adrenal insufficiency, RP 
bleed, hypovolemia from blood loss
[] f/u oncology for VEGF clinical trial availability for 
prostate cancer 
[] f/u adrenal biopsy path results 
[] consider restarting metoprolol and aspirin once clinically 
stable and stable HgB given history of bioprosthetic AVR, ON 
FOLLOW UP WITH YOUR PRIMARY CARE MD
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 12.5 mg PO BID 
2. Ascorbic Acid ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Multivitamins 1 TAB PO DAILY 
6. PARoxetine 20 mg PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral Daily 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Sildenafil Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
**PATIENT LEFT AGAINST MEDICAL ADVICE**
1.  Ascorbic Acid ___ mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral Daily  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  PARoxetine 20 mg PO DAILY  
7.  Thiamine 100 mg PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  
9. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you follow up with your primary care 
doctor
10. HELD- Metoprolol Tartrate 12.5 mg PO BID  This medication 
was held. Do not restart Metoprolol Tartrate until you follow up 
with your primary care doctor
11.Outpatient Lab Work
Please check CBC ___. Fax to Dr . ___  at 
___
ICD: R58

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Metastatic Prostate Cancer
Alcohol Use

SECONDARY DIAGNOSIS
===================
HTN
HLD
Bicuspid aortic valve

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

*****You are leaving against medical advice as the team would 
have wanted you to stay another day to monitor your blood counts 
in the setting of a large retroperitoneal bleed*****

WHY YOU WERE ADMITTED TO THE HOSPITAL
- You were admitted for an elective adrenal biopsy for clinical 
trial workup for your prostate cancer

WHAT WE DID FOR YOU HERE
- You had your adrenal biopsy
- There was a complication of adrenal hemorrhage that progressed 
to a large retroperitoneal bleed
- You had a coil embolization of the left middle adrenal artery 
with to stop the bleeding, which was seen on a repeat cat scan
- Your blood counts were monitored in the setting of the bleed
- Your labs and symptoms were monitored for adrenal 
insufficiency which were not present

WHAT YOU SHOULD DO WHEN YOU LEAVE
- You should continue taking your medications as prescribed
- You should follow up with your primary care doctor in 2 days 
and have your labs drawn at that time to make sure the blood 
counts are stable

WHEN YOU SHOULD COME BACK
- You should look out for symptoms of adrenal insufficiency in 
the setting of the bleed such as nausea, vomiting, fatigue, 
confusion, dizziness. You should also look out for worsened back 
pain, dizziness/lightheadedness, or blood in the urine that 
would be concerning for ongoing bleeding. Please come back to 
the ER if these symptoms occur

It was a pleasure caring for you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___